US06946461B2
b) 2-Hydroxy-1-(5-methylisoxazol-3-yl)ethanone
2-Diazo-1-(5-methylisoxazol-3-yl)ethanone (7.0 g, 46 mmol) was dissolved in diethyl ether (100 ml) and trifluoroacetic acid (25 ml) and water (100 ml) were added. The solution was stirred at room temperature for 2 hours, then the diethyl ether was removed in vacuo and the aqueous solution was stirred at room temperature for 18 hours. Further water (100 ml) was added and the aqueous solution was extracted twice with ethyl acetate. The organic extracts were washed successively with water, 10% aqueous potassium carbonate solution and brine, and dried (Na2SO4). Evaporation of the solvent yielded the title-compound as a pale solid (4.0 g, 61%), 1H NMR (360 MHz, CDCl3) 2.52 (3H, s), 4.90 (2H, s), 6.44 (1H, s).

reactant | 2-Diazo-1-(5-methylisoxazol-3-yl)ethanone | 46 mmol, 7.0 g | [N+](=[N-])=CC(=O)C1=NOC(=C1)C | C6H5N3O2
reactant | trifluoroacetic acid | 25 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | water | 100 ml | O | H2O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 2-Hydroxy-1-(5-methylisoxazol-3-yl)ethanone | 4.0 g, 61% | OCC(=O)C1=NOC(=C1)C | C6H7NO3
